US07973169B2
38) N-(4,5-Diphenyl-thiazol-2-yl)-4-methyl-benzamide
4,5-Diphenyl-thiazol-2-ylamine (50.5 mg, 0.200 mmol) and 4-methyl-benzoyl chloride (30.9 mg, 0.200 mmol) were dissolved in 1,4-dioxane (2 mL) containing triethylamine (84.1 μL, 0.600 mmol). The reaction mixture was subjected to microwave irradiation for 5 minutes at 200° C. The crude product was filtered, evaporated to dryness, dissolved in 1 mL of dimethylsulfoxide and purified by reverse-phase preparative liquid chromatography (18.6 mg, 0.0502 mmol, 25.1%). ESI-MS m/z calc. 370.1, found 371.2 (M+1)+ Retention time 4.13 minutes.

reactant | 4,5-Diphenyl-thiazol-2-ylamine | 0.200 mmol, 50.5 mg | C1(=CC=CC=C1)C=1N=C(SC1C1=CC=CC=C1)N | C15H12N2S
reactant | 4-methyl-benzoyl chloride | 0.200 mmol, 30.9 mg | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | triethylamine | 0.600 mmol, 84.1 μL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-(4,5-Diphenyl-thiazol-2-yl)-4-methyl-benzamide | C1(=CC=CC=C1)C=1N=C(SC1C1=CC=CC=C1)NC(C1=CC=C(C=C1)C)=O | C23H18N2OS
